Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PRIMARY:
Acute Coronary Syndrome Rule-Out
Episodic Dizziness

SECONDARY:
Hypertension
Type II Diabetes Mellitus

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
===================================================  
MEDICINE NIGHTFLOAT ADMISSION NOTE - ___ ___  
===================================================  
OUTPATIENT CARDIOLOGIST:  
PCP: ___.  
 
CHIEF COMPLAINT: dizziness  
REASON FOR TRANSFER: concern for NSTEMI  
 
HISTORY OF PRESENTING ILLNESS: This is a ___ with a history of 
HTN, DM2, strong family history of CAD who presents with 
dizziness and chest tightness.  
She notes that 2 weeks ago she had an episode of dizziness 
('world spinning around her') that improved on its own. Last 
night, she felt so dizzy again that she 'couldn't breath' and 
'was going to die'. This was associated with chest tightness and 
a strong sensation that she 'needed air.' She went to work and 
had the school RN check her blood pressure (she thinks systolic 
was 160) as she was concerned about this and her blood sugar as 
possible causes of her symtpoms.  
She called her PCP who recommended that she be evaluated in the 
ED. She initially went to ___ where VS were 98.3 125/72 18 
69 99%RA. Labs were notable for troponin I of 0.08, d-dimer 205, 
and normal CBC and electrolyte panel (Cr 0.8). She underwent CXR 
that showed heart size within normal limits, no pleural fluid or 
pneumo.  
Given concern for an NSTEMI, she was given asa and a heparin gtt 
and  
was transferred to ___ for higher level of care.  
In the ED, initial vitals were 98.8 75 151/93 16 100% RA  
Labs were notable for trop < 0.01, INR 1.2, H/H ___ with 
MCV 80  
She received nitro SL x2 and continued on heparin gtt.  
On arrival to the floor, the patient reports feeling well. She 
does not have any further dizziness or chest tightness. She 
thinks the nitro SL was helpful in relieving the latter. No 
dizziness with movement from lying to sitting. No leg pain, N/V. 
Has a history of chronic constipation.  
Of note, she has a strong family history of heart disease on her 
maternal side.  
 
Review of sytems:  
(+) Per HPI  
 
 
Past Medical History:
Hypercholesterolemia  
HISTORY HYSTERECTOMY  
Hypertension, essential, benign  
Obesity  
Type 2 diabetes mellitus  
Glaucoma primary - unclear status  

 
Social History:
___
Family History:
Mother had MI versus stroke in ___. Maternal aunt had heart 
surgery, maternal uncles had 'heart problems', died from MI. 
Aunt has diabetes. Glaucoma runs in her father's side. 
 
Physical Exam:
PHYSICAL EXAMINATION:  
VS: Weight 84.5kg, 98 120/57 65 15 99/RA  
General: NAD, lying comfortable in bed  
HEENT: NCAT, one beat of horizantal nystagmus, moist mucous 
membranes  
Neck: supple, no JVD  
CV: regular rhythm, no m/r/g  
Lungs: no crackles or wheezes  
Abdomen: soft, non distended, non tender. no rebound or 
guarding.  
Ext: WWP, no c/c/e, 2+ distal pulses bilaterally  
Neuro: moving all extremities grossly. Unable to perform ___ 
___  

DISCHARGE PHYSICAL EXAMINATION:  
Vitals = 98.1, 103-120/48-85, ___, 98-100% on RA, FSBG 77-111, 
___ Pain or Dyspnea, 84.5kg< ins 368, Outs 0, negative 
orthostatics
Telemetry = Sinus 80-80s with one alarm for HR >120 with ?SVT  
General: NAD, lying comfortable in bed, able to walk around 
hospital floor with MD without difficulty
HEENT: NCAT, one beat of horizantal nystagmus, moist mucous 
membranes  
Neck: supple, no JVD  
CV: regular rhythm, no m/r/g  
Lungs: no crackles or wheezes  
Abdomen: soft, non distended, non tender. no rebound or 
guarding.  
Ext: WWP, no c/c/e, 2+ distal pulses bilaterally  
Neuro: Moving all extremities grossly. ___ negative  
 
Pertinent Results:
ADMISSION/DISCHARGE LABS:
___ 05:25PM BLOOD WBC-7.6 RBC-5.32 Hgb-14.1 Hct-42.5 
MCV-80* MCH-26.6* MCHC-33.2 RDW-14.4 Plt ___
___ 06:40AM BLOOD WBC-7.2 RBC-5.04 Hgb-13.2 Hct-40.1 
MCV-79* MCH-26.1* MCHC-32.8 RDW-13.8 Plt ___
___ 05:25PM BLOOD Neuts-37.8* Lymphs-54.4* Monos-6.1 
Eos-1.4 Baso-0.4
___ 05:25PM BLOOD ___ PTT-94.3* ___
___ 05:25PM BLOOD Glucose-102* UreaN-10 Creat-0.8 Na-140 
K-3.4 Cl-99 HCO3-28 AnGap-16
___ 06:40AM BLOOD Glucose-111* UreaN-14 Creat-0.7 Na-140 
K-4.0 Cl-102 HCO3-26 AnGap-16
___ 05:25PM BLOOD cTropnT-<0.01
___ 06:40AM BLOOD CK-MB-1 cTropnT-<0.01
___ 05:25PM BLOOD Calcium-10.4* Phos-2.8 Mg-2.0
___ 06:40AM BLOOD Calcium-9.5 Phos-3.8 Mg-2.0

OSH CXR: ___ Hear size within normal limits, lungs clear, no 
pleural fluid or pneumothorax
EKG ___:  NSR at 80bpm, normal axis, normal intervals, ?q 
waves in V1-V3 with poor R wave progression

EXERCISE STRESS ELECTROCARDIOGRAM ___ = 
INTERPRETATION: This ___ year old woman with a h/x of HTN, NIDDM, 
HLD
and a strong family history of CAD, presented to the ED with 
chest pain,
shortness of breath and dizziness. The patient completed 9.25 
minutes of
a Modified ___ protocol ___ METS) representing an average 
exericse
tolerance for her age. The test was stopped due to fatigue. 
Toward peak
exercise the patient reproted brief (seconds) right sided chest 
pain,
that resolved almost immediately. There were no ST segement 
changes seen
throughout the study. The rhythm was sinus with no ectopy. The 
heart
rate reponse was blunted in the presence of beta blocker 
thearpy.
Appropriate systolic and diastolic blood pressure response to 
exercise. 
IMPRESSION: Average exericse tolerance. No ischemic EKG changes 
with
non-anginal type symptoms at the achieved level of work. Blunted 
heart
rate response to exercise. Appropriate blood pressure response.
 
Brief Hospital Course:
___, a ___ yo F PMHx T2DM and HTN presented with two 
non-exertional episodes of dizziness improved with 
time/hydration with one episode with dyspnea/chest pain and was 
referred to ___ by PCP.  She had an elevated troponin (but 
no subsequent elevated troponin) and was referred to ___ for 
possible cardiac catheterization.  She had no subsequent 
symptoms, had negative troponins here, and had a negative stress 
EKG and she was discharged to outpatient stress imaging.  

# Acute Coronary Syndrome Rule-Out: Patient with HTN, T2DM, and 
strong family history of CAD presented with two episodes of 
dizziness ('world spinning around her') one associated with 
chest tightness and dyspnea.  Patient called her PCP and was 
referred to ___.  She later wondered if her symptoms 
were stress-related as she had recently come back from vacation 
to stressful job.  There she was found to have an elevated 
troponin I of 0.07 and was referred to ___ for concern of 
NSTEMI.  She had an unchanged EKG and normal troponin T <0.02 x2 
(not consistent with prior elevated cardiac enzyme of any 
variety).  She had negative D-dimer and normal vital signs and 
physical examination.  She was initially started on aspirin and 
heparin GTT (discontinued on floor).  She had no further 
symptoms once presenting to hospital/ED.  She had a stress test 
that was negative for any anginal symptoms or ischemic EKG 
changes.  She was discharged on aspirin for primary prevention 
and followup for possible outpatient stress imaging (nuclear or 
echocardiographic) within 24 hours of admission.

# Dizziness: The patient's chief complaint is dizziness with a 
sensation of the 'world spinning'. Has had this happen two weeks 
ago that self-resolved. Unclear etiology of this symptoms and 
differential for vertigo would be broad (including cardiac, 
vestibular/neuro, metabolic). No signs of bleeding or H/H drop. 
Orthostatics and ___ maneuvers were negative and gait 
and ability to walk were normal.  Can continue dizziness workup 
as outpatient.

# Diabetes Mellitus type 2: A1c of 6.5 in ___ on metformin 
alone.  Holding metformin in favor in ISS.
# Hypertension: Normotensive, continued on home HCTZ and 
losartan
# Hyperlipidemia: Continue pravastatin
# Glaucoma: The patient reports she doesn't have acute angle 
glaucoma yet although is being closely followed 'and is close'.  
Continued home eye drops.

# Code Status: Full Code confirmed.  Emergency contact is 
husband ___ ___
# ___: Home without Services

# Transitional Issues: E-Mailed Primary Care Provider about key 
portions
[] Continue dizziness workup as outpatient
[] Consider further outpatient stress imaging (nuclear stress 
testing or stress echocardiography)
[] Discharged on aspirin 81mg for primary prevention of 
cardiovascular disease
[] Emphasize heart-healthy and diabetic diet and lifestyle
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 20 mg PO DAILY 
2. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Losartan Potassium 50 mg PO DAILY 
5. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
3. Losartan Potassium 50 mg PO DAILY 
4. Pravastatin 20 mg PO DAILY 
5. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
6. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
7. Aspirin 81 mg PO Q48H 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Acute Coronary Syndrome Rule-Out
Episodic Dizziness

SECONDARY:
Hypertension
Type II Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure to take care of you at ___ 
___.  You were admitted to the hospital because your 
primary care provider was concerned about you have chest pain 
and shortness of breath when you were feeling dizzy.  The 
doctors at ___ were concerned that you had some 
evidence of heart damage (elevated troponin I).  When we 
repeated the tests here, your heart muscle enzyme levels were 
normal.  We also did a stress test that showed no chest pain 
with exercise and no areas of the heart that weren't getting 
enough blood.  You had no further chest pain, difficulty 
breathing, or dizziness in the hospital and were discharged 
feeling overall well.  Best of luck to you in your future 
health.

Please take all medications as prescribed, attend all doctor 
appointments as scheduled, follow a heart healthy diet and 
lifestyle, and call a doctor if you have any questions or 
concerns.  You should followup with your primary care provider 
___ ___ weeks for possible further stress testing and workup your 
dizziness.  We also started you on low-dose aspirin to reduce 
your likelihood of having a heart attack.

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___